US08937071B2
To a mixture of 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (60 mg, 0.156 mmol), 2-(4-bromo-2-fluorophenyl)-N-(5-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-3-yl)acetamide (63.7 mg, 0.156 mmol) in H2O (1 mL) and 1,4-dioxane (3 mL) was added cesium carbonate (101 mg, 0.311 mmol) and PdCl2(dppf) (11.40 mg, 0.016 mmol) under a N2 atmosphere. Then the mixture was stirred and irradiated in a microwave oven at 120° C. for 30 min. The mixture was concentrated and extracted with EA. The combined organic was concentrated and the crude material was purified by preparative TLC (PE/EA=2:1, Rf=0.5) to give a yellow solid of 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(5-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-3-yl)acetamide (20 mg, 0.031 mmol, 19.9% yield): 1H NMR (400 MHz, CD3OD) δ: 7.97 (d, J=2.0 Hz, 1H), 7.47 (d, J=2.0 Hz, 1H), 7.46-7.37 (m, 5H), 6.97-7.89 (m, 3H), 5.39 (s, 2H), 4.17 (q, J=6.8 Hz, 2H), 3.85 (s, 2H), 3.83-3.79 (m, 3H), 1.60 (s, 6H), 1.45 (t, J=7.0 Hz, 3H); ES-LCMS m/z 588 (M+1).

reactant | 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.156 mmol, 60 mg | C(C)OC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OCC1=CC=C(C=C1)OC | C21H28BNO5
reactant | 2-(4-bromo-2-fluorophenyl)-N-(5-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-3-yl)acetamide | 0.156 mmol, 63.7 mg | BrC1=CC(=C(C=C1)CC(=O)NC1=NOC(=C1)C(C(F)(F)F)(C)C)F | C15H13BrF4N2O2
reactant | cesium carbonate | 0.311 mmol, 101 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | H2O | 1 mL | O | H2O
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.016 mmol, 11.40 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(5-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-3-yl)acetamide | 0.031 mmol, 20 mg, 19.9% yield | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)NC1=NOC(=C1)C(C(F)(F)F)(C)C)F | C30H29F4N3O5
